US08613914B2
A suspension of N-(tert-butoxycarbonyl)-N-[4-(dimethylazaniumylidene)-1,4-dihydropyridin-1-ylsulfonyl]azanide (3 g; 9.955 mmol) prepared according to the procedure from Winum et al (Organic Letters 2001, 3, 2241) in DCM (24 mL) was treated with pyrrolidine (0.864 mL; 10.453 mmol) and stirred at rt for 24 h. The reaction mixture was chromatographed by FC on silica gel (eluent: CH2Cl2/EtOAc 100:1) to give [N-(tert-butoxycarbonyl)]-pyrrolidine-1-sulfonic acid amide. TLC: Rf (DCM/EtOAc 100:1)=0.40. A solution of [N-(tert-butoxycarbonyl)]-pyrrolidine-1-sulfonic acid amide (57.09 g; 223 mmol) in DCM (450 mL) was treated with TFA (120 mL; 1.56 mol) and stirred at rt for 7 h. The reaction mixture was concentrated in vacuo and the residual oil was triturated with diisopropylether. The resulting powder was washed with diisopropylether and dried under high vacuum to provide Compound 1a. TLC: Rf (DCM/EtOAc 50:1)=0.10.

reactant | N-(tert-butoxycarbonyl)-N-[4-(dimethylazaniumylidene)-1,4-dihydropyridin-1-ylsulfonyl]azanide | 9.955 mmol, 3 g | C(C)(C)(C)OC(=O)[N-]S(=O)(=O)N1C=CC(C=C1)=[N+](C)C | C12H19N3O4S
reactant | pyrrolidine | 10.453 mmol, 0.864 mL | N1CCCC1 | C4H9N
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
product | [N-(tert-butoxycarbonyl)]-pyrrolidine-1-sulfonic acid amide | C(C)(C)(C)OC(=O)NS(=O)(=O)N1CCCC1 | C9H18N2O4S
